US08133998B2
To a suspension of methyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate (2.24 g, 10 mmol) in CH3CN (25 mL) was added K2CO3 (1.38 g, 10 mmol), KI (1.61 g, 10 mmol), and 2-chloro-N-cyclohexylacetamide (1.75 g, 10 mmol). The reaction mixture was refluxed overnight and quenched with H2O (120 mL). The resulting precipitate was filtered and dried to afford methyl 3-(2-(cyclohexylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate, as a solid (yield: quantitative).

reactant | methyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 10 mmol, 2.24 g | CC1=C(SC=2N=CNC(C21)=O)C(=O)OC | C9H8N2O3S
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-N-cyclohexylacetamide | 10 mmol, 1.75 g | ClCC(=O)NC1CCCCC1 | C8H14ClNO
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | methyl 3-(2-(cyclohexylamino)-2-oxoethyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | C1(CCCCC1)NC(CN1C=NC2=C(C1=O)C(=C(S2)C(=O)OC)C)=O | C17H21N3O4S
